US05693651
(1) 7-benzyloxy-3-nitroquinoline
In DMF (75 mL) was dissolved 3-nitro-7-hydroxyquinoline (5.0 g, 26.2 mmol.). Under chilling with ice, to the solution was added sodium hydride (1.15 g, 29 mmol.). After 20 minutes, benzyl bromide (3.4 mL, 29 mmol.) was further added for 10 minutes. The mixture was then stirred overnight at room temperature. After the completion of reaction was confirmed, the mixture was poured into a mixture of ice and water. The precipitated crystalline product was collected by filtration, washed with water, and dried, to give the desired compound (7 g) as a white crystalline product (yield 95%).

reactant | 3-nitro-7-hydroxyquinoline | 26.2 mmol, 5.0 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1)O | C9H6N2O3
reactant | sodium hydride | 29 mmol, 1.15 g | [H-].[Na+]
reactant | benzyl bromide | 29 mmol, 3.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 7-benzyloxy-3-nitroquinoline | 7 g | C(C1=CC=CC=C1)OC1=CC=C2C=C(C=NC2=C1)[N+](=O)[O-] | C16H12N2O3
